US04977155
A mixture of 0,3 g (1,35 mmol) 5,6-diamino-7-chloro-2,3-dihydroxyquinoxaline and 8 ml formic acid was refluxed for 2 h. After cooling to 25° C., the reaction mixture was poured into 30 ml water to give 0,21 g (67%) 4-chloro-7,8-dihydroxy-1H-imidazo(4,5-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6): 7.37 (1H,s), 6.70 (1H,s).

reactant | 5,6-diamino-7-chloro-2,3-dihydroxyquinoxaline | 1,35 mmol, 0,3 g | NC1=C2N=C(C(=NC2=CC(=C1N)Cl)O)O | C8H7ClN4O2
reactant | formic acid | 8 ml | C(=O)O | CH2O2
solvent | water | 30 ml | O | H2O
product | 4-chloro-7,8-dihydroxy-1H-imidazo(4,5-f)quinoxaline | 0,21 g, 67% | ClC1=C2C(=C3N=C(C(=NC3=C1)O)O)NC=N2 | C9H5ClN4O2
